US06080743
N-(7-Nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-4-amino-pyridinium bromide
212 mg (0.5 mmol) of 4-amino-1-(2,3-dimethoxy-7-nitro-quinoxalin-5-yl methyl)-pyridinium bromide are stirred in 3 ml of a 48% solution of hydrogen bromide in glacial acetic acid for 18 hours at room temperature. The brownish reaction mixture is diluted with 7 ml of diethyl ether and then stirred for 10 minutes. The resulting solid is filtered off, washed with a small amount of diethyl ether and dried. The title compound is obtained in the form of a yellow solid having a melting point of>245° C. (decomp.).

reactant | 4-amino-1-(2,3-dimethoxy-7-nitro-quinoxalin-5-yl methyl)-pyridinium bromide | 0.5 mmol, 212 mg | [Br-].NC1=CC=[N+](C=C1)CC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 7 ml | C(C)OCC | C4H10O
product | N-(7-Nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-4-amino-pyridinium bromide | [Br-].[N+](=O)([O-])C1=CC(=C2NC(C(NC2=C1)=O)=O)C[N+]1=CC=C(C=C1)N | InChI=1S/C14H11N5O4.BrH/c15-9-1-3-18(4-2-9)7-8-5-10(19(22)23)6-11-12(8)17-14(21)13(20)16-11;/h1-6,15H,7H2,(H2,16,17,20,21);1H
